US06515129B1
Synthesis of N-(2,6-diisopropylphenyl)isoindoline (compound No. 144 as described hereinafter)
0.5 g of o-phthalaldehyde and 0.661 g of 2,6-diisopropylaniline were dissolved in 20 ml of dichloromethane, 1 ml of acetic acid was added thereto, and the mixture was reacted at room temperature for 25 minutes.

reactant | o-phthalaldehyde | 0.5 g | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | 2,6-diisopropylaniline | 0.661 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2,6-diisopropylphenyl)isoindoline | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1CC2=CC=CC=C2C1 | C20H25N
